US07449486B2
Step B: Preparation of 2,5-difluorobenzoic acid hydrazide:
To a solution of 2,5-difluorobenzoic acid (3.5 g, 22 mmol) in THF/DMF (20 mL/20 mL) was added EDCI (4.7 g, 24 mmol), DMAP (50 mg) and NH2NHBoc (3.07 g, 23.2 mmol). After stirring for 16 hours, the reaction was quenched with water (30 mL) and diluted with EtOAc (30 mL). The organic layer was then washed with HCl (0.5 M, 20 mL), saturated NaHCO3 (20 mL), and brine (20 mL). The organic layer was then dried over Na2SO4, filtered and concentrated under reduced pressure to afford the crude Boc-protected product, which was then dissolved in DCM (60 mL) at 0° C. TFA (50 mL) was added to the above DCM solution. After stirring for 2 hours, the reaction mixture was concentrated and the residue was dissolved in DCM (60 mL). The solution was washed with saturated NaHCO3 (40 mL) and dried over Na2SO4, filtered and concentrated under reduced pressure to afford the desired crude product.

reactant | 2,5-difluorobenzoic acid | 22 mmol, 3.5 g | FC1=C(C(=O)O)C=C(C=C1)F | C7H4F2O2
reactant | EDCI | 24 mmol, 4.7 g | CCN=C=NCCCN(C)C | C8H17N3
reactant | NH2NHBoc | 23.2 mmol, 3.07 g | NNC(=O)OC(C)(C)C | C5H12N2O2
reactant | TFA | 50 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | THF DMF | 20 mL | C1CCOC1.CN(C)C=O
catalyst | DMAP | 50 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | DCM | 60 mL | C(Cl)Cl | CH2Cl2
product | 2,5-difluorobenzoic acid hydrazide | FC1=C(C(=O)NN)C=C(C=C1)F | C7H6F2N2O
